US08247415B2
Preparation of [2-oxopyrimidin-1(2H)-yl]acetic acid (i-32)
To 2-hydroxypyrimidine hydrochloride (1.00 g, 7.54 mmol) and chloroacetic acid (0.713 g, 7.54 mmol) was added 5 N sodium hydroxide solution (4.5 mL). The reaction mixture was heated at 105° C. for 2 h. After cooled down to ambient temperature and neutralized with 2 M hydrochloric acid (3.8 mL), the title compound was collected by crystallization and filtration as a pale yellow solid. 1H NMR (DMSO-d6): δ 13.2 (s, 1H), 8.59 (dd, J=3.9, 3.0 Hz, 1H), 8.16 (dd, J=6.4, 2.8 Hz, 1H), 6.46 (dd, J=6.4, 4.1 Hz, 1H), 4.58 (s, 2H). LC/MS 155.2 (M+1).

reactant | 2-hydroxypyrimidine hydrochloride | 7.54 mmol, 1.00 g | Cl.OC1=NC=CC=N1
reactant | chloroacetic acid | 7.54 mmol, 0.713 g | ClCC(=O)O | C2H3ClO2
reactant | sodium hydroxide | 5 N, 4.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 M, 3.8 mL | Cl | ClH
product | [2-oxopyrimidin-1(2H)-yl]acetic acid | O=C1N(C=CC=N1)CC(=O)O | C6H6N2O3
